US07872023B2
Triethylsilane (8.08 mmol, 0.94 g) was added to a solution of 7-methoxy-isothiochroman-4-one-3-carboxylic acid methyl ester (0.51 g, 2.02 mmol) in trifluoroacetic acid (15 mL) at room temperature under N2. The reaction was allowed to stir at room temperature for 2 h and was concentrated under reduced pressure. The resulting oil was dissolved in EtOAc (100 mL) and washed with sat. NaHCO3 (3×75 mL). The organic extracts were combined, dried (MgSO4) and concentrated to provide an oil. The oil was purified on silica using medium pressure chromatography (9:1 petroleum ether/EtOAc) to provide 7-methoxy-isothiochroman-3-carboxylic acid methyl ester (0.34 g, 70%) as a pale yellow oil. 1H-NMR (300 MHz, CDCl3) δ 3.14 (m, 2H), 3.58-3.63 (d, J=15 Hz, 1H), 3.73-3.86 (m, 8H), 6.70 (d, J=3 Hz, 1H), 6.75 (dd, J=3, 9 Hz, 1H), 7.10 (d, J=9 Hz, 1H).

reactant | Triethylsilane | 8.08 mmol, 0.94 g | C(C)[SiH](CC)CC | C6H16Si
reactant | 7-methoxy-isothiochroman-4-one-3-carboxylic acid methyl ester | 2.02 mmol, 0.51 g | COC(=O)C1SCC2=CC(=CC=C2C1=O)OC | C12H12O4S
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-methoxy-isothiochroman-3-carboxylic acid methyl ester | 0.34 g, 70% | COC(=O)C1SCC2=CC(=CC=C2C1)OC | C12H14O3S
